US05672611
A. 8-CHLORO-6,11-DIHYDRO-11-HYDROXY-5H-BENZO[5,6]-CYCLOHEPTA[1,2-b]PYRIDINE
To a mixture of 25.03 g (103 mmol) of 8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one in 200 mL of methanol at room temperature and under a nitrogen atmosphere was added portionwise over a period of about 1 hour 4.82 g (124 mmol) of sodium borohydride. Occasional cooling with an ice bath was necessary at times during the addition in order to avoid excessive reflux. After 1.6 hours the mixture was poured into ice cold water and then extracted with ethyl acetate (3X). The combined organic portions were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The residue was recrystallized from hot isopropyl ether. The remaining filtrate was purified via flash chromatography (20% ethyl acetate in hexanes) to yield more product which solidified on standing. Both batches were combined to yield 20.41 g of the title compound as a white solid.

reactant | 8-chloro-5,6-dihydro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 103 mmol, 25.03 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2=O)C1 | C14H10ClNO
reactant | sodium borohydride | 124 mmol, 4.82 g | [BH4-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 8-CHLORO-6,11-DIHYDRO-11-HYDROXY-5H-BENZO[5,6]-CYCLOHEPTA[1,2-b]PYRIDINE | 20.41 g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2O)C1 | C14H12ClNO
